US09034866B2
Synthesis of ethyl 9-bromo-4-methoxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate
A suspension of ethyl 9-bromo-4-hydroxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate (500 mg, 1.35 mmol, 1.00 equiv), Ag2O (1.247 g, 4.00 equiv), and iodomethane (763 mg, 5.38 mmol, 4.00 equiv) in dichloromethane (5 mL) was stirred for 3 h at 50. The reaction was quenched with 10 mL of brine, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:20) to give 150 mg (29%) of the titled compound as a white solid; LC-MS (ES, m/z) 384, 386[M+H]+.

reactant | ethyl 9-bromo-4-hydroxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 1.35 mmol, 500 mg, 1.00 equiv | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)O)C=C1 | C14H12BrNO4S
reactant | iodomethane | 5.38 mmol, 763 mg, 4.00 equiv | IC | CH3I
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 9-bromo-4-methoxy-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxylate | 150 mg, 29% | BrC1=CC2=C(OCC(C3=C2N=C(S3)C(=O)OCC)OC)C=C1 | C15H14BrNO4S
